US07745438B2
5-(R)-[1-(S)-benzyloxy-2-(S)-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-(S)-(2-cyclohexylethyl)-morpholine-4-carboxylic acid tert-butyl ester
Add tri-n-butylphosphine (0.20 mL, 0.82 mmol) and 1,1′-azobis(N,N-dimethylformamide) (diamide) (142 mg, 0.82 mmol) to a solution of [2-(S)-benzyloxy-3-(S)-dibenzylamino-4-(3,5-difluorophenyl)-1-(R)-hydroxymethylbutyl]-(4-cyclohexyl-2-(S)-hydroxybutyl)-carbamic acid tert-butyl ester (317 mg, 0.41 mmol) in dry tetrahydrofuran (5 mL) and stir at room temperature for 3 days. Filter, dilute filtrate with ethyl acetate, wash with 0.1 N hydrochloric acid/saturated aqueous sodium chloride (50 mL), dry (sodium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with dichloromethane to give the desired compound as a white foam (232 mg, 75%).

reactant | tri-n-butylphosphine | 0.82 mmol, 0.20 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-azobis(N,N-dimethylformamide) | 0.82 mmol, 142 mg | N(=NC(=O)N(C)C)C(=O)N(C)C | C6H12N4O2
reactant | [2-(S)-benzyloxy-3-(S)-dibenzylamino-4-(3,5-difluorophenyl)-1-(R)-hydroxymethylbutyl]-(4-cyclohexyl-2-(S)-hydroxybutyl)-carbamic acid tert-butyl ester | 0.41 mmol, 317 mg | C(C)(C)(C)OC(N(C[C@H](CCC1CCCCC1)O)[C@@H]([C@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)CO)=O | C47H60F2N2O5
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 5-(R)-[1-(S)-benzyloxy-2-(S)-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-(S)-(2-cyclohexylethyl)-morpholine-4-carboxylic acid tert-butyl ester | 232 mg, 75% | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)CCC1CCCCC1 | C47H58F2N2O4
